US05266713
Methyl 4-mercaptobenzoate
Commercially available bis-(4-carboxyphenyl) disulfide was esterified to give bis-(4-carbomethoxyphenyl) disulfide as a white solid [m.p. (uncorrected) 133°-135° C.). To 670 mg of bis-(4-carbomethoxyphenyl) disulfide in 45 mL acetic acid, was added, under argon, 654 mg of zinc dust. The mixture was refluxed for 1.5 hours, cooled to ambient temperature and diluted with 50 mL water. The mixture was vacuum filtered and the filtrate purged sequentially for 10 minutes (each) with a stream of argon, hydrogen sulfide and argon. The mixture was diluted with 75 mL ethyl acetate and vacuum filtered through a sintered glass funnel containing Celite®. The layers of the filtrate were separated and the organic layer dried (MgSO4). The organic extract was evaporated in-vacuo, the residue diluted with toluene and the acetic acid removed by distillation of the toluene-acetic acid azeotrope to give title compound (78%) as a white solid.

reactant | bis-(4-carbomethoxyphenyl) disulfide | 670 mg | C(=O)(OC)C1=CC=C(C=C1)SSC1=CC=C(C=C1)C(=O)OC | C16H14O4S2
solvent | acetic acid | 45 mL | C(C)(=O)O | C2H4O2
solvent | water | 50 mL | O | H2O
catalyst | zinc | 654 mg | [Zn] | Zn
product | Methyl 4-mercaptobenzoate | 78% | SC1=CC=C(C(=O)OC)C=C1 | C8H8O2S
